US06255305B1
a) Ethyl 4-methyl-2-(trifluoromethanesulfonyloxy)cyclohex-1-enecarboxylate
To a solution of ethyl 4-methyl-2-cyclohexanone-1-carboxylate (50 g, 0.27 mol) in dichloromethane (500 ml) at −10° C. was added N,N-diisopropylethylamine (52 ml, 0.3 mol) followed by dropwise addition of trifluoromethanesulphonyl chloride (57 ml, 0.3 mol) keeping the temperature between −5 and −100° C. The reaction mixture was allowed to warm to room temperature and stirred for 3 hours. TLC showed 80% reaction, it was cooled to −5° C. and more N,N-diisopropylethylamine (14 ml, 0.1 mol) was added followed by trifluoromethanesulphonyl chloride (15.5 ml, 0.1 mol) and the reaction mixture was stirred for 15 hours at room temperature. The mixture was washed with cold water (2×200 ml), cold saturated sodium bicarbonate (2×200 ml) and brine (1×200 ml). The organic layer was dried (MgSO4), filtered and evaporated to give the required product (85 g) as a colourless oil. 1H NMR (250 MHz, CDCl3) δ 1.04 (3H, d, J=6.5 Hz), 1.43 (3H, m), 1.73-2.09 (4H, m), 2.39-2.63 (3H, m), 4.25 (2H, m).

reactant | ethyl 4-methyl-2-cyclohexanone-1-carboxylate | 0.27 mol, 50 g | CCOC(=O)C1CCC(CC1=O)C | C10H16O3
reactant | N,N-diisopropylethylamine | 0.3 mol, 52 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | trifluoromethanesulphonyl chloride | 0.3 mol, 57 ml | FC(S(=O)(=O)Cl)(F)F | CClF3O2S
reactant | N,N-diisopropylethylamine | 0.1 mol, 14 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | trifluoromethanesulphonyl chloride | 0.1 mol, 15.5 ml | FC(S(=O)(=O)Cl)(F)F | CClF3O2S
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | Ethyl 4-methyl-2-(trifluoromethanesulfonyloxy)cyclohex-1-enecarboxylate | 85 g | CC1CC(=C(CC1)C(=O)OCC)OS(=O)(=O)C(F)(F)F | C11H15F3O5S
